US06187805B1
d) [3-(2-Dimethylamino-ethyl)-5-hydroxy-1H-indol-1-yl]phenylmethanone
A solution of [5-benzyloxy-3-(2-dimethylamino-ethyl)-1H-indol-1yl]phenylmethanone (300 mg, 0.75 mmol) and 4N hydrochloric acid (190 ml, 0.76 mmol) in ethanol (10 ml) was hydrogenated over 10% palladium on carbon (100 mg) at 35 psi for 3 hours. The catalyst was removed by filtration. The filtrate was evaporated, and the residue was partitioned between dichloromethane and saturated aqueous sodium hydrogen carbonate. The aqueous was further extracted with dichloromethane (×2). The combined extracts were dried (K2CO3), filtered and evaporated. The residue was purified by chromatography on silica gel, eluting with dichloromethane/methanol/aqueotus ammonia (80:8:1) to give the title compound (120 mg, 52%), as a colourless solid; mp 154°-156° C. δH (360 MHz, CDCl3) 2.40 (6H, s), 2.70-2.75 (2H, m), 2.83-2.88 (2H, m), 6.86-6.90 (2H, m), 7.04 (1H, s), 7.49-7.61 (3H, m), 7.68-7.71 (2H, m), 8.17 (0.5H, s), 8.20 (0.5H, s). m/z (CI+) 309 [MH]+. Found: C, 73.22; H, 6.48; N, 8.74. C19H20N2O2.0.2 H2O requires C, 73.15; H, 6.59; N, 8.98%.

reactant | [5-benzyloxy-3-(2-dimethylamino-ethyl)-1H-indol-1yl]phenylmethanone | 0.75 mmol, 300 mg | C(C1=CC=CC=C1)OC=1C=C2C(=CN(C2=CC1)C(=O)C1=CC=CC=C1)CCN(C)C | C26H26N2O2
reactant | hydrochloric acid | 0.76 mmol, 4N, 190 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | [3-(2-Dimethylamino-ethyl)-5-hydroxy-1H-indol-1-yl]phenylmethanone | 120 mg, 52% | CN(CCC1=CN(C2=CC=C(C=C12)O)C(=O)C1=CC=CC=C1)C | C19H20N2O2
